US08669266B2
(ii) (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride
The crude (S)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester from the preceding reaction step was dissolved in 20 ml of saturated ethanolic hydrochloric acid and stirred for 2 h. Then, the reaction mixture was diluted with 200 ml of toluene and the solvents were removed under reduced pressure. The residue was co-distilled additional 3 times with toluene and then, triturated with ether. The obtained crystalline white solid was filtered and dried. Yield: 8.2 g.

reactant | (S)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1CC1)=O | C13H22N2O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride | Cl.C1(CC1)NC(=O)[C@H]1NCCC1 | InChI=1S/C8H14N2O.ClH/c11-8(10-6-3-4-6)7-2-1-5-9-7;/h6-7,9H,1-5H2,(H,10,11);1H/t7-;/m0./s1
